US04551534
1,4,5,6,7,8-Hexahydro-7-[3-(4-methoxyphenoxy)-2-hydroxypropyl]-2-methyl-5-oxo-4-(pentafluorophenyl)-1,7-naphthyridine-3-carboxylic acid methyl ester
1,4,5,6,7,8-Hexahydro-2-methyl-5-oxo-4-(2,3,4,5,6-pentafluorophenyl)-1,7-naphthyridine-3-carboxylic acid methyl ester (5.0 g), 2.3 g of 1,2-epoxy-3-(4-methoxyphenoxy)propane and 125 ml of methanol were combined and refluxed for 18 hours. The solution was saturated with hydrogen chloride, then the methanol was evaporated in vacuo. The residue was crystallized from ethyl acetate. Recrystallization from acetonitrile afforded 4 g of the title compound as the hydrochloride, salt, m.p. 222° C. dec.

reactant | 1,4,5,6,7,8-Hexahydro-2-methyl-5-oxo-4-(2,3,4,5,6-pentafluorophenyl)-1,7-naphthyridine-3-carboxylic acid methyl ester | 5.0 g | COC(=O)C1=C(NC=2CNCC(C2C1C1=C(C(=C(C(=C1F)F)F)F)F)=O)C | C17H13F5N2O3
reactant | 1,2-epoxy-3-(4-methoxyphenoxy)propane | 2.3 g | O1CC1COC1=CC=C(C=C1)OC | C10H12O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 125 ml | CO | CH4O
product | 1,4,5,6,7,8-Hexahydro-7-[3-(4-methoxyphenoxy)-2-hydroxypropyl]-2-methyl-5-oxo-4-(pentafluorophenyl)-1,7-naphthyridine-3-carboxylic acid methyl ester | 4 g | COC(=O)C1=C(NC=2CN(CC(C2C1C1=C(C(=C(C(=C1F)F)F)F)F)=O)CC(COC1=CC=C(C=C1)OC)O)C | C27H25F5N2O6
